US06841560B2
N-(2-Formyl-1,2,3,4-tetrahydroisoquinolin-7-yl)-4-methoxy-3-trifluoromethylbenzamide
7-Amino-2-formyl-1,2,3,4-tetrahydroisoquinoline (0.176 g) was converted into the title compound by reaction with 4-methoxy-3-trifluoromethylbenzoyl chloride, following the procedure of Example 3. The product was isolated as a white solid (0.035 g).

reactant | 7-Amino-2-formyl-1,2,3,4-tetrahydroisoquinoline | 0.176 g | NC1=CC=C2CCN(CC2=C1)C=O | C10H12N2O
reactant | 4-methoxy-3-trifluoromethylbenzoyl chloride | COC1=C(C=C(C(=O)Cl)C=C1)C(F)(F)F | C9H6ClF3O2
product | N-(2-Formyl-1,2,3,4-tetrahydroisoquinolin-7-yl)-4-methoxy-3-trifluoromethylbenzamide | C(=O)N1CC2=CC(=CC=C2CC1)NC(C1=CC(=C(C=C1)OC)C(F)(F)F)=O | C19H17F3N2O3
